US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-phenyl-1,3-thiazole-5-carboxamide
The title compound was prepared as described in Example 51A, substituting phenyl boronic acid for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 2-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiazole-5-carboxamide for 4-bromoaniline. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.34 (t, J=5.8 Hz, 1H), 8.56-8.48 (m, 2H), 8.05-7.95 (m, 2H), 7.90 (d, J=0.8 Hz, 1H), 7.60-7.49 (m, 4H), 7.45 (s, 1H), 6.87 (dd, J=7.0, 1.6 Hz, 1H), 4.52 (d, J=5.7 Hz, 2H); MS (ESI(+)) m/e 335 (M+H).

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 2-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C12H9BrN4OS
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-2-phenyl-1,3-thiazole-5-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CN=C(S2)C2=CC=CC=C2 | C18H14N4OS
